US04895984
74 g (0.5 mole) of phthalic anhydride were reacted with 128 g (1.05 moles) of AlCl3 and 25 g (0.2 mole) of diethylzinc in 74 g of tert-amylbenzene, similarly to Example 1. After the mixture had been worked up, 118 g (80% of theory) of pure 2-(4'-tert-amylbenzoyl)-benzoic acid were obtained.

reactant | phthalic anhydride | 0.5 mole, 74 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | AlCl3 | 1.05 moles, 128 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | diethylzinc | 0.2 mole, 25 g | C(C)[Zn]CC
reactant | tert-amylbenzene | 74 g | C(C)(C)(CC)C1=CC=CC=C1 | C11H16
product | 2-(4'-tert-amylbenzoyl)-benzoic acid | 118 g, 80% | C(C)(C)(CC)C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C19H20O3
